Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
This patient is a ___ year old male with history of AS, CAD s/p 
MI, and ETOH abuse with a recent admission for s/p fall on 
___ when he was diagnosed with bilateral rib fractures and 
a small intraparenchymal hemorrhage, who presents with HA s/p 
fall earlier tonight. Per EMS, the pt's wife found the pt at the 
bottom of the stairs and the pt was unable to recall what 
happened. Pt endorses a dull abd pain and nausea.
            
 
Past Medical History:
PMHx:
- Aortic Stenosis
- Myocardial infarction
- Coronary Disease
- Dyslipidemia
- Hypertension
- History of postop PAF
- Hypothyroid related to amiodarone

Past Surgical History
- Emergent coronary bypass grafting x5, on intra-aortic balloon
pump with endoscopic left greater saphenous vein harvesting and
endoscopic right greater saphenous vein harvesting on ___
- Re-Exploration for bleeding following CABG

 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
Admission Physical Exam: 
Temp: 96.3 HR: 82 BP: 172/110 Resp: 14 O(2)Sat: 97 Normal
 
HEENT: 2 cm scalp laceration on vertex with adjacent
hematoma. Pupils are equal and reactive at 3 to 2 mm.
Extraocular muscles intact. No facial instability.
Airway intact. No tenderness to the jaw line. No TTP C
spine. Small superficial abrasion on the neck.
Chest: Bilateral breath sou, +CW TTP, no crepitance
Cardiovascular: Regular Rate and Rhythm
Abdominal: Nontender
Pelvic: Pelvis is stable. Vertical incision on the R groin
is well healed.
Extr/Back: Bilateral palpable radial pulses. Abrasion to L
shoulder. Abrasion to the R knee and L shin. No ankle
tenderness.
Skin: Warm and dry
Neuro: Alert
Psych: calm , cooperative
___: No petechiae

Discharge Physical Exam:
VS: T: 97.7, BP: 162/82, HR: 80, RR: 18, O2: 98% RA
GEN: A+Ox3, NAD
HEENT: R scalp laceration well-approximated without drainage 
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender
Extremities: LLE with ecchymosis with 4x4 dsg c/d/I 
 
Pertinent Results:
___ 03:17AM   LACTATE-1.7
___ 03:13AM   GLUCOSE-137* UREA N-16 CREAT-0.8 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-23 ANION GAP-17
___ 03:13AM   ALT(SGPT)-147* AST(SGOT)-98* ALK PHOS-139* 
TOT BILI-0.8
___ 03:13AM   LIPASE-33
___ 03:13AM   cTropnT-<0.01
___ 03:13AM   ALBUMIN-3.9
___ 03:13AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:13AM   WBC-12.2* RBC-4.23* HGB-14.0 HCT-41.9 MCV-99* 
MCH-33.1* MCHC-33.4 RDW-12.3 RDWSD-44.4
___ 03:13AM   NEUTS-74.6* LYMPHS-15.4* MONOS-6.7 EOS-1.6 
BASOS-0.5 IM ___ AbsNeut-9.07* AbsLymp-1.87 AbsMono-0.82* 
AbsEos-0.20 AbsBaso-0.06
___ 03:13AM   PLT COUNT-267#
___ 03:13AM   ___ PTT-25.0 ___

Imaging: 

___: CXR: 
No acute cardiopulmonary process with the exception of 
left-sided rib
fractures.  Correlation with the report of the recent chest CT 
is recommended.

___: CT Head:
 
1. Continued expected evolution of small right frontal 
parenchymal hematoma.
2. No evidence of new intracranial hemorrhage.
3. New left parietal scalp near vertex soft tissue swelling with 
small
subcutaneous emphysema, without definite evidence of associated 
fracture.  
Question interval history of intervention molar trauma since 
most is not prior
exam.

___: CT Torso:
 
1. New fractures of left ribs 2 and 3.  Multiple additional 
healing fractures bilaterally, which were present on the prior 
study.
2. No evidence of other acute injury in the torso.
3. Bibasilar atelectasis with small right pleural effusion.
4. Chronic findings, including cholelithiasis and 
diverticulosis.

___: CT C-spine:
1.  Dental amalgam streak artifact and mild motion limits study.
2. No acute fracture or traumatic malalignment.
3. New nonspecific left apical opacity.  Please see concurrently 
obtained
contrast CT torso study for description of thoracic structures.

___: L Knee x-ray:
1. No displaced fracture or dislocation.
2. Mild bilateral degenerative changes with small joint 
effusions.

 
Brief Hospital Course:
Mr. ___ is a ___ year-old male with history of AS, CAD s/p 
MI, and ETOH abuse with a recent admission for s/p fall on 
___ when he was diagnosed with bilateral rib fractures and 
a small intraparenchymal hemorrhage, who presented to the ED 
this admission s/p a second fall.  The patient had a head CT 
which was unconcerning and demonstrated no new intracranial 
hemorrhage and improved evolution of his prior right frontal 
parenchymal hematoma.  He had a CT chest which showed new 
fractures of left ribs 2 and 3. CT C-spine did not show any 
acute injury.  He was noted to have b/l knee effusions and 
abrasions and had x-rays which were negative for dislocation or 
fracture.  The patient was admitted to the Trauma/Acute Care 
Surgery service for pain control and to monitor respiratory 
status and was transferred to the surgical floor.

On HD2, the medicine service was consulted for syncope workup. 
Medicine recommended he work with Physical Therapy, continue to 
encourage abstinence from alcohol, have an outpatient TTE and 
follow-up with his outpatient cardiologist. It was also 
recommended that the patient avoid opioids for management of his 
pain, especially given his high risk for falls and alcohol use.  
The patient was prescribed lidocaine patches and acetaminophen. 
The patient worked with Physical Therapy and he was cleared to 
be discharged to home. 

The remainder of the ___ hospital stay is discussed by 
systems below:

NEURO: The patient was alert and oriented throughout 
hospitalization.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient tolerated a regular diet.  The patient's 
intake and output were closely monitored.

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

  

 
Medications on Admission:
1. Disulfiram 250 mg PO DAILY (not taking as prescribed)
2. Citalopram 20 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. LORazepam 1 mg PO BID:PRN anxiety 
5. FoLIC Acid 1 mg PO DAILY 
6. Metoprolol Tartrate 50 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. Lisinopril 2.5 mg PO DAILY 
9. Thiamine 100 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY 
11. LevETIRAcetam 500 mg PO BID Duration: 7 Days (completed
course) 
12. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 
13. Docusate Sodium 100 mg PO BID
14. Acetaminophen 650 mg PO TID
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Calcium Carbonate 500 mg PO QID:PRN Heart burn 
5. Citalopram 20 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
please hold for loose stool  
7. FoLIC Acid 1 mg PO DAILY 
8. Lisinopril 2.5 mg PO DAILY 
9. LORazepam 1 mg PO BID:PRN anxiety 
10. Metoprolol Tartrate 50 mg PO BID 
11. Senna 17.2 mg PO HS 
please hold for loose stool  
12. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine [Lidoderm] 5 % Apply one patch to area of rib pain 
QAM Disp #*15 Patch Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left ___ rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 

 
Followup Instructions:
___